US06982259B2
To 2-[4-(imidazol-1-yl)phenoxy]ethylamine (4.0 g, 20 mmol) dissolved in MeOH (150 mL) was added piperonal (3.0 g, 20 mmol) and acetic acid (1.5 mL). After stirring for 1 h, NaBH3CN (2.6 g, 40 mmol) was added. After stirring for 18 hour, the solvent was removed in vacuo and the residue was chromatographed on silical gel with 2% methanol in methylene chloride to give 3.5 g of N-[2-(4-(imidazol-1-yl)phenoxy)ethyl]-N-[(1,3-benzodioxol-5-yl)methyl]amine, 1H NMR (DMSO-d6) 8.12 (s, 1), 7.62 (s, 1), 7.54 (d, 2), 7.08-7.02 (m, 3), 6.90 (s, 1), 6.82-6.75 (m, 2), 5.94 (s, 2), 4.03 (t, 2), 3.62 (s, 2), 3.32 (s, 1), 2.80 (t, 2) ppm.

reactant | 2-[4-(imidazol-1-yl)phenoxy]ethylamine | 20 mmol, 4.0 g | N1(C=NC=C1)C1=CC=C(OCCN)C=C1 | C11H13N3O
reactant | piperonal | 20 mmol, 3.0 g | C1=CC2=C(C=C1C=O)OCO2 | C8H6O3
reactant | acetic acid | 1.5 mL | C(C)(=O)O | C2H4O2
reactant | NaBH3CN | 40 mmol, 2.6 g | [BH3-]C#N.[Na+]
solvent | MeOH | 150 mL | CO | CH4O
product | N-[2-(4-(imidazol-1-yl)phenoxy)ethyl]-N-[(1,3-benzodioxol-5-yl)methyl]amine | 3.5 g | N1(C=NC=C1)C1=CC=C(OCCNCC2=CC3=C(OCO3)C=C2)C=C1 | C19H19N3O3
